US05264437
A suspension of lithium aluminum hydride (4.6 g, 121.2 mmoles) in tetrahydrofuran (300 ml) was heated to reflux. To this refluxing suspension, a solution of 2-(3-chloroanilino)-3-carbamoylpyridine (10.0 g, 40.4 mmole) in tetrahydrofuran (200 ml), (prepared, for example, as described in Example 3B), was slowly added dropwise. The reaction mixture was stirred for 18 hours and cooled to room temperature. Solutions of tetrahydrofuran and H2O (20 ml, 50:50), 20 ml of 10% NaOH and 20 ml of H2O were added to the reaction mixture. A white precipitate was formed and removed by filtration. Three quarters of the solvent was removed. The residue was extracted in ethyl acetate (5×100 ml) and washed with H2O. The solution was dried over MgSO4 and the MgSO4 was removed by filtration. The solvent was removed by evaporation resulting in a 10.3 g of 2-(3-chloroanilino)-3-aminomethylpyridine, as a light yellow oil, which was used without further purification.

reactant | lithium aluminum hydride | 121.2 mmoles, 4.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3-chloroanilino)-3-carbamoylpyridine | 40.4 mmole, 10.0 g | ClC=1C=C(NC2=NC=CC=C2C(N)=O)C=CC1 | C12H10ClN3O
reactant | H2O | 20 ml | O | H2O
reactant | NaOH | 20 ml | [OH-].[Na+]
reactant | H2O | 20 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(3-chloroanilino)-3-aminomethylpyridine | 10.3 g | ClC=1C=C(NC2=NC=CC=C2CN)C=CC1 | C12H12ClN3
